US07056917B2
(C) tert-Butyl N-[4-(3-amino-3-oxopropyl)-2-pyridyl]carbamate
3-{2-[(tert-Butoxycarbonyl)amino]-4-pyridyl}propanoic acid (11.16 g, 41.92 mmol) dissolved in tetrahydrofuran (200 ml) was added with triethylamine (9 ml, 62.89 mmol), cooled with ice, and then added dropwise with ethyl chloroformate (6 ml, 62.89 mmol). The reaction mixture was stirred for 10 minutes, and then added with aqueous ammonia (50 ml) dissolved in tetrahydrofuran (50 ml) at 0° C. The reaction mixture was stirred for 20 minutes under ice cooling, and then the solvent was evaporated under reduced pressure. The resulting residue was washed with water and extracted with chloroform. The resulting organic layer was washed with saturated brine, and the organic layer was dried over sodium sulfate and concentrated under reduced pressure to obtain 11.794 g (100%) of the title compound as brown crystals without purification.

reactant | 3-{2-[(tert-Butoxycarbonyl)amino]-4-pyridyl}propanoic acid | 41.92 mmol, 11.16 g | C(C)(C)(C)OC(=O)NC1=NC=CC(=C1)CCC(=O)O | C13H18N2O4
reactant | triethylamine | 62.89 mmol, 9 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 62.89 mmol, 6 ml | ClC(=O)OCC | C3H5ClO2
reactant | ammonia | 50 ml | N | H3N
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | tert-Butyl N-[4-(3-amino-3-oxopropyl)-2-pyridyl]carbamate | 11.794 g, 100% | NC(CCC1=CC(=NC=C1)NC(OC(C)(C)C)=O)=O | C13H19N3O3
